2177-12-21 06:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2177-12-20**] 01:01 PM
 ARTERIAL LINE - START [**2177-12-20**] 01:30 PM
 BLOOD CULTURED - At [**2177-12-21**] 04:08 AM
   - weaned to [**8-22**] on PSV, RSBI 92, but per nursing producing pink frothy
   sputum - suggestive of fluid overload
   - changed art line to R arm aftrer L stopped giving waveform
   - CXR this AM
   - fever spike to 100.3 - blood cx drawn
   - requiring more insulin than standard ISS b/c on steroid protocol per
   Emergency Dept study
   - urin ag for legionell negative
   - AM Lasix with good effect
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2177-12-20**] 03:00 AM
   Cefipime - [**2177-12-21**] 04:30 AM
   Infusions:
   Propofol - 12 mcg/Kg/min
   Other ICU medications:
   Hydralazine - [**2177-12-21**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-12-21**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.9
C (100.3
   HR: 85 (79 - 93) bpm
   BP: 150/65(96) {91/59(81) - 177/80(110)} mmHg
   RR: 18 (18 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150.7 kg (admission): 154.6 kg
    CVP: 18 (11 - 294)mmHg
   Total In:
                                                                    889 mL
                                                                    241 mL
   PO:
   TF:
   IVF:
                                                                    889 mL
                                                                    241 mL
   Blood products:
   Total out:
                                                                  1,990 mL
                                                                    850 mL
   Urine:
                                                                  1,990 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,101 mL
                                                                   -609 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 501 (500 - 501) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 92
   PIP: 28 cmH2O
   Plateau: 24 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.37/44/131/25/0
   Ve: 10.9 L/min
   PaO2 / FiO2: 262
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   157 K/uL
   11.3 g/dL
   147 mg/dL
   1.6 mg/dL
   25 mEq/L
   4.5 mEq/L
   30 mg/dL
   105 mEq/L
   138 mEq/L
   31.4 %
   16.5 K/uL
        [image002.jpg]
                            [**2177-12-19**]  09:43 PM
                            [**2177-12-20**]  01:03 AM
                            [**2177-12-20**]  02:01 AM
                            [**2177-12-20**]  04:41 AM
                            [**2177-12-20**]  07:08 AM
                            [**2177-12-20**]  11:56 AM
                            [**2177-12-20**]  01:44 PM
                            [**2177-12-20**]  05:00 PM
                            [**2177-12-21**]  02:16 AM
                            [**2177-12-21**]  05:01 AM
   WBC
   14.9
   20.0
   16.5
   Hct
   35.6
   33.4
   31.4
   Plt
   169
   183
   157
   Cr
   2.4
   2.2
   1.6
   TropT
   0.09
   0.07
   TCO2
   21
   21
   22
   22
   24
   25
   26
   Glucose
   264
   91
   147
   Other labs: PT / PTT / INR:14.6/28.6/1.3, CK / CKMB /
   Troponin-T:1425/9/0.07, ALT / AST:36/46, Alk Phos / T Bili:88/0.4,
   Differential-Neuts:95.8 %, Band:21.0 %, Lymph:2.1 %, Mono:1.8 %,
   Eos:0.2 %, Lactic Acid:1.2 mmol/L, Albumin:3.5 g/dL, LDH:224 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   This is a 66 y/o man with PMH notable for type 2 DM, AVR X 2, and TBM
   s/p tracheal stent who presents status post PEA arrest.
   .
   # Respiratory failure: Again unclear precipitant though patient has
   multiple pulmonary issues including sleep apnea (likely obesity
   hypoventilation syndrome), tracheobronchomalacia with recent tracheal
   stenting, and recurrent pneumonias (antibiotics almost continuously per
   wife due to sputum production). He also apparently takes multiple
   narcotics and other meds (i.e., flexeril, seroquel, valium) which could
   contribute to altered mental status which would exacerbate
   hypoventilation.
   - adjust ventilator settings per ABGs
 currently on PSV wean, will
   keep on vent with plan to diurese today, wean in Am tomorrow with
   extubation on [**12-22**]
   - obtain records from [**Location (un) 755**] regarding tracheal stenting - obtained
   - send sputum culture
 if available
   - add on urine legionella antigen - negative
   .
   # Renal insufficiency: Unclear baseline creatinine. Would be helpful to
   obtain records from PCP or coverage over the weekend. Likely that
   creatinine will be higher in setting of shock and arrest, already
   improving with IVF and resuscitation.
   - trend creatinine
 improving as of [**12-21**]
   - renally dose meds
   - avoid nephrotoxins
   - obtain records from PCP to establish recent Cr baseline
 obtained
   will eval for baseline renal fxn
   .
   # Cardiac status: Unclear circumstances surrounding the arrest. From
   family history, patient will fall asleep frequently during the day.
   This could be secondary to chronic hypercarbia which could be
   exacerbated by patient's multiple narcotic pain medications. Could
   hypothesize that patient took additional narcotics which depressed his
   already-tenuous respiratory drive leading to hypercarbia and hypoxia
   which led to PEA arrest. Other possibility is cardiac event but ekg on
   admit not necessarily concerning for MI. Other etiologies (electrolyte
   abnormalities, PE, hypothermia) less likely given lab and scan results.
   Unclear what type of neurologic deficits, if any, he will have
   following this event. We elected not to cool him per protocol with
   arctic sun due to length of time since arrest (~ 1315 and 1815 on
   arrival to MICU) in addition to instability of blood pressures (on 3
   pressors on arrival to MICU).
   - pressures remain stable off pressors
   - this AM pt had misfiring of pacemaker
 EP will interrogate in AM
   - support respiratory failure as below
   - cycle cardiac enzymes
 no acute changes in levels
   - continually reassess neurologic status
   .
   # Shock: Patient's hypotension on arrival to [**Hospital1 19**] could be related to
   profound acidosis in setting of resuscitation or hypothermia. Following
   aggressive IVFs in ED, pressors were quickly weaned to off on arrival
   to the ICU. Could also be [**2-8**] to underlying infectious source (did have
   leukocytosis and bandemia on arrival) and most obvious source is
   infiltrates seen on chest CT. UA negative on arrival. Cardiac function
   (per echo performed in the ED) preserved at this time so less suspicion
   for cardiac shock.
   - continue to monitor blood pressure with arterial line
   - treat broadly for HCAP with cefepime / vancomycin
   - send sputum culture
   - repeat lactate
   - pressures stable
   .
   # CK elevation: Unlikely cardiac source given low MB and MBI. Troponin
   slightly elevated but in setting of renal insufficiency and stress from
   hypotension.
   - cycle CKs to peak
   - EKG in AM
   .
   # Diabetes mellitus: FSBS in 300s on arrival to the ICU. Will start
   insulin gtt and monitor blood sugars q1h until under better control.
 will start Lantus 15 [**Hospital1 7**], will follow FSBGs
   .
   # Hypertension: Hold antihypertensives for now given pressor
   requirement on arrival. Reconsider initiation of meds when stabilized,
   though home regimen unclear.  Stabilized started BP medications
   - started Labetalol and Hydral
   - once PO plan is to restart home meds
   .
   # Hypercholesterolemia: Reinitiate statin when NG in place or patient
   taking POs.
   .
   # Chronic pain: Will continually reassess. Not currently on any
   sedation and will wait for mental status to improve prior to giving any
   narcotics or benzos, etc.
   .
   # FEN: npo for now as no NG, replete lytes prn
   .
   # PPx: ppi, bowel meds, pneumoboots for now
   .
   # ACcess: Right IJ CVL, Right radial arterial line
   .
   # CODE: full, discussed with family
   .
   # COMM: with patient and family. Son [**Name (NI) **] [**Name (NI) 4273**] is HCP ([**Telephone/Fax (1) 4276**], Wife [**Telephone/Fax (1) 4277**].
   .
   # DISP: ICU care
 HYPERTENSION, BENIGN
 DIABETES MELLITUS (DM), TYPE II
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CARDIAC ARREST
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2177-12-19**] 07:45 PM
   Arterial Line - [**2177-12-20**] 01:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 62 yo M with multiple med problems (DM,
   obesity,severe OSA noncompliant, cadaveric AVR x 2, CRF, COPD with TBM
   w/ Y-stent on home O2 (noncompliant) and chronic pain on narcotics)
   admitted [**12-19**] after PEA arrest.  Continues to improve from neuron
   standpoint. Overnight was weaned to PS. A-line changed yesterday. Low
   grade temps--> blood cx sent.  Resumed anti-htn medications.
   Exam notable for Tm 100.4 BP 150/65 HR 85 RR 18 sat 98% on PS 5/5 40%,
   -1100 cc
   Obese M, intubated and sedated, follows simple commands, non
   focal-moving all 4 ext, CTA anteriorly, RR with sys murm, benign abd,
   no edema, warm ext
   Labs notable for WBC 16.5, Hct 31, plt 157,  bun 30 (35) cr 1.6 (2.4),
   glu 147,
   ABG 7.37/44/131 (ps 15/8 50%)
   CXR with IJ in position, ett ok, tracheal stent, full vessels, large
   LA, no focal pna
   Micro: U legionella neg; sp, bl cx pending
   echo results pending
   Active issues include:
         s/p PEA arrest
event seems most likely [**2-8**] resp arrest
likely
   hypercarbic resp failure (known severe OSA with noncompliance and
   chronic use of narcotics), no clear evidence of acute MI, PE, cardiac
   tamponade
         shock--now off pressors with stable hemodynamics
         Leukocytosis and bandemia-improving (on ED steroid study in
   cardiac arrest)
         acute on CRI (improving)
         resp failure
          low grade temp
   Improving from neuro standpoint when sedation lightened. Tolerating
   vent wean well Vol overloaded-- by imaging and frothy secretions
   holding up extubation at this time.  Will diurese with plan for SBT and
   probable extubation in am.  Given Y-stent and difficult airway having
   IP or anesthesia present would be suggested. Remains stable in terms of
   hemodynamics.  F/[**Location 39**] echo read and resume bp meds for htn.  IV
   afterload as unable to take POs given ? esoph stents and difficulty
   placing NGT. Given anticipated extubation tomorrow, will hold on asking
   GI to place NGT endoscopically. Renal fx continues to improve.  Suspect
   a pre-renal component with ? atn in setting of arrest.  Pacer not
   capturing appropriately on monitor
will consult ep for interrogation.
   Remains NPO--would resume 1/2 dose lantus and monitor with cs (also ?
   of getting steroids on ED study). Had low grade temp overnight and with
   leukocytosis.  At risk for VAP/aspiration, UTI.  Lines fresh.
   Clinically has minimal secretions (frothy) with no clear infiltrate on
   imaging. Also ? of steroids from study.  Continue empiric antibx
   (vanco/cef) pending final cx data, with recx sent last night.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2177-12-21**] 01:52 PM ------

2177-12-22 06:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -noted to have lots of thick secretions overnight
   -secretions looser in AM frothy in appearance
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2177-12-21**] 08:00 AM
   Cefipime - [**2177-12-22**] 04:00 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2177-12-21**] 08:00 AM
   Metoprolol - [**2177-12-21**] 06:05 PM
   Hydralazine - [**2177-12-21**] 08:10 PM
   Furosemide (Lasix) - [**2177-12-22**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-12-22**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.8
C (100.1
   HR: 79 (70 - 102) bpm
   BP: 145/64(91) {122/52(75) - 167/73(105)} mmHg
   RR: 26 (21 - 34) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Wgt (current): 150.7 kg (admission): 154.6 kg
    CVP: 18 (13 - 351)mmHg
   Total In:
                                                                    967 mL
                                                                    251 mL
   PO:
   TF:
   IVF:
                                                                    967 mL
                                                                    251 mL
   Blood products:
   Total out:
                                                                  3,750 mL
                                                                  1,100 mL
   Urine:
                                                                  3,750 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,783 mL
                                                                   -849 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 398 (395 - 592) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 135
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.40/46/96.[**Numeric Identifier 181**]/28/2
   Ve: 10.1 L/min
   PaO2 / FiO2: 242
   Physical Examination
   Gen: sedated
   HEENT:  NCAT, EOMI, moist mm
   Chest: coarse BS
   CV: distant HS
   Abd: +bs, nd
   Ext: 1+ pitting
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   174 K/uL
   10.9 g/dL
   142 mg/dL
   1.2 mg/dL
   28 mEq/L
   4.1 mEq/L
   26 mg/dL
   106 mEq/L
   140 mEq/L
   30.9 %
   14.7 K/uL
        [image002.jpg]
                            [**2177-12-20**]  11:56 AM
                            [**2177-12-20**]  01:44 PM
                            [**2177-12-20**]  05:00 PM
                            [**2177-12-21**]  02:16 AM
                            [**2177-12-21**]  05:01 AM
                            [**2177-12-21**]  09:30 AM
                            [**2177-12-21**]  03:54 PM
                            [**2177-12-21**]  04:25 PM
                            [**2177-12-22**]  03:43 AM
                            [**2177-12-22**]  04:06 AM
   WBC
   20.0
   16.5
   14.4
   14.7
   Hct
   33.4
   31.4
   31.1
   30.9
   Plt
   183
   157
   172
   174
   Cr
   2.2
   1.6
   1.4
   1.2
   TropT
   0.07
   0.07
   0.07
   TCO2
   24
   25
   26
   27
   29
   30
   Glucose
   91
   147
   154
   142
   Other labs: PT / PTT / INR:14.6/28.6/1.3, CK / CKMB /
   Troponin-T:1109/3/0.07, ALT / AST:36/46, Alk Phos / T Bili:88/0.4,
   Differential-Neuts:95.8 %, Band:21.0 %, Lymph:2.1 %, Mono:1.8 %,
   Eos:0.2 %, Lactic Acid:1.2 mmol/L, Albumin:3.5 g/dL, LDH:224 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   This is a 66 y/o man with PMH notable for type 2 DM, AVR X 2, and TBM
   s/p tracheal stent who presents status post PEA arrest.
   .
   # Respiratory failure: Again unclear precipitant though patient has
   multiple pulmonary issues including sleep apnea (likely obesity
   hypoventilation syndrome), tracheobronchomalacia with recent tracheal
   stenting, and recurrent pneumonias (antibiotics almost continuously per
   wife due to sputum production). He also apparently takes multiple
   narcotics and other meds (i.e., flexeril, seroquel, valium) which could
   contribute to altered mental status which would exacerbate
   hypoventilation.
   - adjust ventilator settings per ABGs
 currently on PSV wean, will
   keep on vent with plan to diurese y/d, with extubation on [**12-22**]
   - obtain records from [**Location (un) 755**] regarding tracheal stenting - obtained
   - send sputum culture
 if available
 Coag + SA
 cover with Vanc
   Cefepime until [**Last Name (un) 4361**]
   - add on urine legionella antigen - negative
   .
   # Renal insufficiency: Unclear baseline creatinine. Would be helpful to
   obtain records from PCP or coverage over the weekend. Likely that
   creatinine will be higher in setting of shock and arrest, already
   improving with IVF and resuscitation.
   - trend creatinine
 improving as of [**12-22**]
   - adjust meds for normal renal fxn
   - avoid nephrotoxins
   - obtain records from PCP to establish recent Cr baseline
 obtained
   from [**Hospital3 3928**]
 sensitive renal fxn with baseline ~ 0.9-1.1.
   .
   # Cardiac status: Unclear circumstances surrounding the arrest. From
   family history, patient will fall asleep frequently during the day.
   This could be secondary to chronic hypercarbia which could be
   exacerbated by patient's multiple narcotic pain medications. Could
   hypothesize that patient took additional narcotics which depressed his
   already-tenuous respiratory drive leading to hypercarbia and hypoxia
   which led to PEA arrest. Other possibility is cardiac event but ekg on
   admit not necessarily concerning for MI. Other etiologies (electrolyte
   abnormalities, PE, hypothermia) less likely given lab and scan results.
   Unclear what type of neurologic deficits, if any, he will have
   following this event. We elected not to cool him per protocol with
   arctic sun due to length of time since arrest (~ 1315 and 1815 on
   arrival to MICU) in addition to instability of blood pressures (on 3
   pressors on arrival to MICU).
   - off pressors
   - this AM pt had continued misfiring of pacemaker
 EP will re-eval
   - support respiratory failure prn
   - cycle cardiac enzymes
 no acute changes in levels
   - continually reassess neurologic status
   .
   # Diabetes mellitus: FSBS in 300s on arrival to the ICU. Will start
   insulin gtt and monitor blood sugars q1h until under better control.
 will advance Lantus 15 [**Hospital1 7**], will follow FSBGs
   .
   # Hypertension: Hold antihypertensives for now given pressor
   requirement on arrival. Reconsider initiation of meds when stabilized,
   though home regimen unclear.  Stabilized started BP medications
   - started correction to previous note - started Metoprolol and Hydral
   [**12-20**]
   - once PO plan is to restart home meds
   .
   # Hypercholesterolemia: Reinitiate statin when NG in place or patient
   taking POs.
   .
   # Chronic pain: Will continually reassess. Not currently on any
   sedation and will wait for mental status to improve prior to giving any
   narcotics or benzos, etc.
   . # Shock: Patient's hypotension on arrival to [**Hospital1 19**] could be related
   to profound acidosis in setting of resuscitation or hypothermia.
   Following aggressive IVFs in ED, pressors were quickly weaned to off on
   arrival to the ICU. Could also be [**2-8**] to underlying infectious source
   (did have leukocytosis and bandemia on arrival) and most obvious source
   is infiltrates seen on chest CT. UA negative on arrival. Cardiac
   function (per echo performed in the ED) preserved at this time so less
   suspicion for cardiac shock. Resolved
   - continue to monitor blood pressure with arterial line
   - treat broadly for HCAP with cefepime / vancomycin
   - send sputum culture
   - repeat lactate
   - pressures stable
   .
   # CK elevation: Unlikely cardiac source given low MB and MBI. Troponin
   slightly elevated but in setting of renal insufficiency and stress from
   hypotension.  Resolved
   - cycle CKs to peak
   - EKG in AM
   .
   # FEN: npo for now as no NG, replete lytes prn
   .
   # PPx: ppi, bowel meds, pneumoboots for now
   .
   # ACcess: Right IJ CVL, Right radial arterial line
   .
   # CODE: full, discussed with family
   .
   # COMM: with patient and family. Son [**Name (NI) **] [**Name (NI) 4273**] is HCP ([**Telephone/Fax (1) 4276**], Wife [**Telephone/Fax (1) 4277**].
   .
   # DISP: ICU care
 HYPERTENSION, BENIGN
 DIABETES MELLITUS (DM), TYPE II
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CARDIAC ARREST
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2177-12-19**] 07:45 PM
   Arterial Line - [**2177-12-20**] 01:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2177-12-23 05:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   got lasix IV 20 x1
   vanco, cefepime dosages changed for changing renal funciton
   EP never came
   insulin increased to 20 lantus [**Hospital1 7**]
   Allergies:
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2177-12-22**] 06:00 PM
   Vancomycin - [**2177-12-22**] 07:39 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2177-12-22**] 08:00 AM
   Furosemide (Lasix) - [**2177-12-22**] 12:30 PM
   Metoprolol - [**2177-12-22**] 11:50 PM
   Hydralazine - [**2177-12-23**] 04:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-12-23**] 05:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.9
C (98.4
   HR: 80 (64 - 91) bpm
   BP: 136/62(86) {115/55(75) - 171/67,317(138)} mmHg
   RR: 21 (16 - 30) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Wgt (current): 150.7 kg (admission): 154.6 kg
    CVP: 18 (9 - 23)mmHg
   Total In:
                                                                  1,154 mL
                                                                    110 mL
   PO:
   TF:
   IVF:
                                                                  1,154 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                  3,690 mL
                                                                    400 mL
   Urine:
                                                                  3,690 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,536 mL
                                                                   -290 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 408 (345 - 434) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 46
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.39/55/114/29/7
   Ve: 7.7 L/min
   PaO2 / FiO2: 285
   Physical Examination
   Gen: sedated
   HEENT:  NCAT, EOMI, moist mm
   Chest: coarse BS
   CV: distant HS
   Abd: +bs, nd
   Ext: 1+ pitting
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   187 K/uL
   10.8 g/dL
   138 mg/dL
   1.1 mg/dL
   29 mEq/L
   4.1 mEq/L
   26 mg/dL
   106 mEq/L
   142 mEq/L
   30.3 %
   12.0 K/uL
        [image002.jpg]
                            [**2177-12-21**]  05:01 AM
                            [**2177-12-21**]  09:30 AM
                            [**2177-12-21**]  03:54 PM
                            [**2177-12-21**]  04:25 PM
                            [**2177-12-22**]  03:43 AM
                            [**2177-12-22**]  04:06 AM
                            [**2177-12-22**]  03:10 PM
                            [**2177-12-22**]  05:33 PM
                            [**2177-12-23**]  04:03 AM
                            [**2177-12-23**]  04:06 AM
   WBC
   14.4
   14.7
   12.0
   Hct
   31.1
   30.9
   30.3
   Plt
   172
   174
   187
   Cr
   1.4
   1.2
   1.1
   TropT
   0.07
   0.07
   TCO2
   26
   27
   29
   30
   32
   31
   35
   Glucose
   154
   142
   138
   Other labs: PT / PTT / INR:14.6/28.6/1.3, CK / CKMB /
   Troponin-T:669/3/0.07, ALT / AST:36/46, Alk Phos / T Bili:88/0.4,
   Differential-Neuts:95.8 %, Band:21.0 %, Lymph:2.1 %, Mono:1.8 %,
   Eos:0.2 %, Lactic Acid:1.2 mmol/L, Albumin:3.5 g/dL, LDH:224 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   This is a 66 y/o man with PMH notable for type 2 DM, AVR X 2, and TBM
   s/p tracheal stent who presents status post PEA arrest.
   .
   # Respiratory failure: Again unclear precipitant though patient has
   multiple pulmonary issues including sleep apnea (likely obesity
   hypoventilation syndrome), tracheobronchomalacia with recent tracheal
   stenting, and recurrent pneumonias (antibiotics almost continuously per
   wife due to sputum production). He also apparently takes multiple
   narcotics and other meds (i.e., flexeril, seroquel, valium) which could
   contribute to altered mental status which would exacerbate
   hypoventilation.
   - adjust ventilator settings per ABGs
 currently on PSV wean, on vent
   overnight - > diuresed overnight and this AM
 extubated on [**12-23**]
   - obtained records from [**Location (un) 755**] regarding tracheal stenting
   - send sputum culture
 if available
 Coag + SA
 cover with
   Vanc/Cefepime until [**Last Name (un) 4361**]
   - urine legionella antigen - negative
   .
   # Renal insufficiency: Unclear baseline creatinine. Would be helpful to
   obtain records from PCP or coverage over the weekend. Likely that
   creatinine will be higher in setting of shock and arrest, already
   improving with IVF and resuscitation.
   - trend creatinine
 improving as of [**12-23**]
   - adjusted meds for improved renal fxn
   - avoided nephrotoxins
   - obtained recs from [**Hospital3 3928**]
 renal fxn baseline ~ 0.9-1.1.
   .
   # Cardiac status: Unclear circumstances surrounding the arrest. From
   family history, patient will fall asleep frequently during the day.
   This could be secondary to chronic hypercarbia which could be
   exacerbated by patient's multiple narcotic pain medications. Could
   hypothesize that patient took additional narcotics which depressed his
   already-tenuous respiratory drive leading to hypercarbia and hypoxia
   which led to PEA arrest. Other possibility is cardiac event but ekg on
   admit not necessarily concerning for MI. Other etiologies (electrolyte
   abnormalities, PE, hypothermia) less likely given lab and scan results.
   Unclear what type of neurologic deficits, if any, he will have
   following this event. We elected not to cool him per protocol with
   arctic sun due to length of time since arrest (~ 1315 and 1815 on
   arrival to MICU) in addition to instability of blood pressures (on 3
   pressors on arrival to MICU).
   - off pressors
   - overnight and this AM pt had continuous firing of pacer
 EP will
   re-eval [**12-23**]
   - support respiratory failure
 now extubated on face tent
   - enzymes cycled
 no issues remain
   - reassess neurologic status now that pt is extubated
   .
   # Diabetes mellitus: FSBS in 300s on arrival to the ICU. Will start
   insulin gtt and monitor blood sugars q1h until under better control.
 advanced Lantus to 20 [**Hospital1 7**], will start on home regimen when back to
   eating will follow FSBGs
   .
   # Hypertension: Hold antihypertensives for now given pressor
   requirement on arrival. Reconsider initiation of meds when stabilized,
   though home regimen unclear.  Stabilized started BP medications
   - started correction to previous note - started Metoprolol and Hydral
   [**12-20**]
   - once PO plan is to restart home meds
   .
   # Hypercholesterolemia: Reinitiate statin when NG in place or patient
   taking POs.
   .
   # Chronic pain: Will continually reassess. D/c
d sedation and will wait
   for mental status to improve prior to giving any narcotics or benzos,
   etc.
   .
   . # Shock: Patient's hypotension on arrival to [**Hospital1 19**] could be related
   to profound acidosis in setting of resuscitation or hypothermia.
   Following aggressive IVFs in ED, pressors were quickly weaned to off on
   arrival to the ICU. Could also be [**2-8**] to underlying infectious source
   (did have leukocytosis and bandemia on arrival) and most obvious source
   is infiltrates seen on chest CT. UA negative on arrival. Cardiac
   function (per echo performed in the ED) preserved at this time so less
   suspicion for cardiac shock. Resolved
   - continue to monitor blood pressure with arterial line
   - treat broadly for HCAP with cefepime / vancomycin
   - send sputum culture
   - repeat lactate
   - pressures stable
   .
   # CK elevation: Unlikely cardiac source given low MB and MBI. Troponin
   slightly elevated but in setting of renal insufficiency and stress from
   hypotension.  Resolved
   - cycle CKs to peak
   - EKG in AM
   .
   # FEN: npo for now as no NG, replete lytes prn
   .
   # PPx: ppi, bowel meds, pneumoboots for now
   .
   # ACcess: Right IJ CVL, Right radial arterial line
   .
   # CODE: full, discussed with family
   .
   # COMM: with patient and family. Son [**Name (NI) **] [**Name (NI) 4273**] is HCP ([**Telephone/Fax (1) 4276**], Wife [**Telephone/Fax (1) 4277**].
   .
   # DISP: ICU care
 HYPERTENSION, BENIGN
 DIABETES MELLITUS (DM), TYPE II
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CARDIAC ARREST
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2177-12-19**] 07:45 PM
   Arterial Line - [**2177-12-20**] 01:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2177-12-24 05:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2177-12-23**] 10:30 AM
 INVASIVE VENTILATION - STOP [**2177-12-23**] 11:00 AM
   - extubated
 remains somnolent, hypercarbic (based on [**12-24**] AM gas)
   - seen by EP
 pacer working normally, producing almost every
   ventricular beat, but not firing on top of QRS
   - new sputum cx
 GNR, GPR, Gram pos cocci clusters/pairs
   - old sputum cx
 coag + SA, GNRs now
   - TTE not performed [**12-23**]
   Allergies:
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2177-12-23**] 06:00 PM
   Vancomycin - [**2177-12-23**] 08:16 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2177-12-23**] 08:00 AM
   Metoprolol - [**2177-12-23**] 06:00 PM
   Hydralazine - [**2177-12-23**] 08:16 PM
   Other medications:
   Quinapril
   Lasix
   Albuterol
   Cefepime
   Vanco
   ISS
   Asa
   Metoprolol
   Hydralazine
   Acetaminophen
   Pantoprazole
   Bisacodyl
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-12-24**] 05:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36
C (96.8
   HR: 72 (72 - 89) bpm
   BP: 137/59(82) {125/59(82) - 179/86(114)} mmHg
   RR: 23 (18 - 27) insp/min
   SpO2: 93% (89-98)
   Heart rhythm: A sense V pace
   Wgt (current): 150.7 kg (admission): 154.6 kg
    CVP: 11 (11 - 21)mmHg
   Total In:
                                                                    851 mL
                                                                     52 mL
   PO:
   TF:
   IVF:
                                                                    851 mL
                                                                     52 mL
   Blood products:
   Total out:
                                                                  2,840 mL
                                                                    250 mL
   Urine:
                                                                  2,840 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,989 mL
                                                                   -198 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 359 (359 - 359) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 0 cmH2O
   FiO2: 50%
   SpO2: 93%
   ABG: 7.35/57/135/31/4
   Ve: 8.8 L/min
   PaO2 / FiO2: 338
   Physical Examination
   Gen: awake and alert
   HEENT:  NCAT, EOMI, moist mm
   Chest: clear BS
   CV: distant HS, mechanical S1, SEM
   Abd: +bs, nd
   Ext: 1+ pitting
   Labs / Radiology
   213 K/uL
   12.1 g/dL
   144 mg/dL
   0.9 mg/dL
   31 mEq/L
   4.2 mEq/L
   25 mg/dL
   105 mEq/L
   143 mEq/L
   34.8 %
   11.6 K/uL
        [image002.jpg]
   CK 1109 to 669
   [**12-20**] sputum: 4+ GPC, 3+ GPR, cult mod coag + staph, sparse GNR
   [**12-23**] sputum: 4+ GNR, 2+ GPR 1+ GPC,
   [**12-21**] blood pending
   CXR: PVC, no consolidations
                            [**2177-12-22**]  03:43 AM
                            [**2177-12-22**]  04:06 AM
                            [**2177-12-22**]  03:10 PM
                            [**2177-12-22**]  05:33 PM
                            [**2177-12-23**]  04:03 AM
                            [**2177-12-23**]  04:06 AM
                            [**2177-12-23**]  12:04 PM
                            [**2177-12-23**]  11:43 PM
                            [**2177-12-24**]  03:51 AM
                            [**2177-12-24**]  04:17 AM
   WBC
   14.7
   12.0
   11.6
   Hct
   30.9
   30.3
   34.8
   Plt
   174
   187
   213
   Cr
   1.2
   1.1
   0.9
   TropT
   0.07
   TCO2
   30
   32
   31
   35
   31
   33
   33
   Glucose
   142
   138
   144
   Other labs: PT / PTT / INR:14.6/28.6/1.3, CK / CKMB /
   Troponin-T:669/3/0.07, ALT / AST:36/46, Alk Phos / T Bili:88/0.4,
   Differential-Neuts:95.8 %, Band:21.0 %, Lymph:2.1 %, Mono:1.8 %,
   Eos:0.2 %, Lactic Acid:1.2 mmol/L, Albumin:3.5 g/dL, LDH:224 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   This is a 66 y/o man with PMH notable for type 2 DM, AVR X 2, and TBM
   s/p tracheal stent who presents status post PEA arrest.
   .
   # Respiratory failure: Again unclear precipitant though patient has
   multiple pulmonary issues including sleep apnea (likely obesity
   hypoventilation syndrome), tracheobronchomalacia with recent tracheal
   stenting, and recurrent pneumonias (antibiotics almost continuously per
   wife due to sputum production). He also apparently takes multiple
   narcotics and other meds (i.e., flexeril, seroquel, valium) which could
   contribute to altered mental status which would exacerbate
   hypoventilation.
   - adjust ventilator settings per ABGs
 currently on PSV wean, on vent
   overnight - > diuresed overnight and this AM
 extubated on [**12-23**]
   - obtained records from [**Location (un) 755**] regarding tracheal stenting
   - send sputum culture
 if available
 Coag + SA
 cover with
   Vanc/Cefepime until [**Last Name (un) 4361**]
   - urine legionella antigen - negative
   .
   # Renal insufficiency: Unclear baseline creatinine. Would be helpful to
   obtain records from PCP or coverage over the weekend. Likely that
   creatinine will be higher in setting of shock and arrest, already
   improving with IVF and resuscitation.
   - trend creatinine
 improving as of [**12-23**]
   - adjusted meds for improved renal fxn
   - avoided nephrotoxins
   - obtained recs from [**Hospital3 3928**]
 renal fxn baseline ~ 0.9-1.1.
   .
   # Cardiac status: Unclear circumstances surrounding the arrest. From
   family history, patient will fall asleep frequently during the day.
   This could be secondary to chronic hypercarbia which could be
   exacerbated by patient's multiple narcotic pain medications. Could
   hypothesize that patient took additional narcotics which depressed his
   already-tenuous respiratory drive leading to hypercarbia and hypoxia
   which led to PEA arrest. Other possibility is cardiac event but ekg on
   admit not necessarily concerning for MI. Other etiologies (electrolyte
   abnormalities, PE, hypothermia) less likely given lab and scan results.
   Unclear what type of neurologic deficits, if any, he will have
   following this event. We elected not to cool him per protocol with
   arctic sun due to length of time since arrest (~ 1315 and 1815 on
   arrival to MICU) in addition to instability of blood pressures (on 3
   pressors on arrival to MICU).
   - off pressors
   - overnight and this AM pt had continuous firing of pacer
 EP will
   re-eval [**12-23**]
   - support respiratory failure
 now extubated on face tent
   - enzymes cycled
 no issues remain
   - reassess neurologic status now that pt is extubated
   .
   # Diabetes mellitus: FSBS in 300s on arrival to the ICU. Will start
   insulin gtt and monitor blood sugars q1h until under better control.
 advanced Lantus to 20 [**Hospital1 7**], will start on home regimen when back to
   eating will follow FSBGs
   .
   # Hypertension: Hold antihypertensives for now given pressor
   requirement on arrival. Reconsider initiation of meds when stabilized,
   though home regimen unclear.  Stabilized started BP medications
   - started correction to previous note - started Metoprolol and Hydral
   [**12-20**]
   - once PO plan is to restart home meds
   .
   # Hypercholesterolemia: Reinitiate statin when NG in place or patient
   taking POs.
   .
   # Chronic pain: Will continually reassess. D/c
d sedation and will wait
   for mental status to improve prior to giving any narcotics or benzos,
   etc.
   .
   . # Shock: Patient's hypotension on arrival to [**Hospital1 19**] could be related
   to profound acidosis in setting of resuscitation or hypothermia.
   Following aggressive IVFs in ED, pressors were quickly weaned to off on
   arrival to the ICU. Could also be [**2-8**] to underlying infectious source
   (did have leukocytosis and bandemia on arrival) and most obvious source
   is infiltrates seen on chest CT. UA negative on arrival. Cardiac
   function (per echo performed in the ED) preserved at this time so less
   suspicion for cardiac shock. Resolved
   - continue to monitor blood pressure with arterial line
   - treat broadly for HCAP with cefepime / vancomycin
   - send sputum culture
   - repeat lactate
   - pressures stable
   .
   # CK elevation: Unlikely cardiac source given low MB and MBI. Troponin
   slightly elevated but in setting of renal insufficiency and stress from
   hypotension.  Resolved
   - cycle CKs to peak
   - EKG in AM
   .
   # FEN: npo for now as no NG, replete lytes prn
   .
   # PPx: ppi, bowel meds, pneumoboots for now
   .
   # ACcess: Right IJ CVL, Right radial arterial line
   .
   # CODE: full, discussed with family
   .
   # COMM: with patient and family. Son [**Name (NI) **] [**Name (NI) 4273**] is HCP ([**Telephone/Fax (1) 4276**], Wife [**Telephone/Fax (1) 4277**].
   .
   # DISP: ICU care
 HYPERTENSION, BENIGN
 DIABETES MELLITUS (DM), TYPE II
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CARDIAC ARREST
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2177-12-19**] 07:45 PM
   Arterial Line - [**2177-12-20**] 01:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2177-12-25 06:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2177-12-24**] 10:00 AM
   -diet advanced, well tolerated
   -ACEi and toprol (12.5) restarted. wrote for full toprol dose to start
   in am.
   -TTE: Moderate symmetric LVH with probably normal LV systolic function.
   Aortic valve prosthesis is not well seen but appears to have a higher
   than expected velocity. EF>55%
   -Sputum sensitivities to be back this AM (they swear)
   Allergies:
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2177-12-24**] 06:55 AM
   Vancomycin - [**2177-12-24**] 09:31 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2177-12-24**] 04:00 PM
   Other medications:
   Lasix
   Metoprolol
   Lipitor
   Protonix
   Asa
   Quinapril
   Albuterol
   Cefepime
   Vanco
   ISS
   Tylenol
   Bisacodyl
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-12-25**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.5
   HR: 72 (70 - 80) bpm
   BP: 165/78(106) {101/51(71) - 165/107(118)} mmHg
   RR: 21 (15 - 28) insp/min
   SpO2: 94% (90-96)
   Heart rhythm: V Paced
   Wgt (current): 150.7 kg (admission): 154.6 kg
    CVP: 7 (7 - 8)mmHg
   Total In:
                                                                    840 mL
                                                                     63 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                    740 mL
                                                                     63 mL
   Blood products:
   Total out:
                                                                  1,990 mL
                                                                    190 mL
   Urine:
                                                                  1,990 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,150 mL
                                                                   -127 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.43/46/87.[**Numeric Identifier 181**]/31/4
   Physical Examination
   Gen: awake and alert, Ox3, responding to questions apropriately
   HEENT:  NCAT, EOMI, moist mm
   Chest: clear BL
   CV: distant HS, [**2-12**]  SEM
   Abd: +bs, nd
   Ext: 1+ pitting edema
   Neuron: CN intact, moving all ext
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   233 K/uL
   11.9 g/dL
   155 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.8 mEq/L
   28 mg/dL
   106 mEq/L
   143 mEq/L
   33.8 %
   10.8 K/uL
        [image002.jpg]
   [**12-21**] blood pending
   Urine legionella neg
   Echo: TTE: Moderate symmetric LVH with probably normal LV systolic
   function. Aortic valve prosthesis is not well seen but appears to have
   a higher than expected velocity. EF>55%
   12/16 sputum 4+ GNR, 2+ GPR
   1+ GPC, sparse OP flora
   [**12-20**] 4+ GPC, 3+ GPR, mod Staph aures coag + sensi pending, sparse GNR.
                            [**2177-12-22**]  03:10 PM
                            [**2177-12-22**]  05:33 PM
                            [**2177-12-23**]  04:03 AM
                            [**2177-12-23**]  04:06 AM
                            [**2177-12-23**]  12:04 PM
                            [**2177-12-23**]  11:43 PM
                            [**2177-12-24**]  03:51 AM
                            [**2177-12-24**]  04:17 AM
                            [**2177-12-24**]  11:33 AM
                            [**2177-12-25**]  04:50 AM
   WBC
   12.0
   11.6
   10.8
   Hct
   30.3
   34.8
   33.8
   Plt
   187
   213
   233
   Cr
   1.1
   0.9
   0.9
   TCO2
   32
   31
   35
   31
   33
   33
   32
   Glucose
   138
   144
   155
   Other labs: PT / PTT / INR:14.6/28.6/1.3, CK / CKMB /
   Troponin-T:669/3/0.07, ALT / AST:36/46, Alk Phos / T Bili:88/0.4,
   Differential-Neuts:95.8 %, Band:21.0 %, Lymph:2.1 %, Mono:1.8 %,
   Eos:0.2 %, Lactic Acid:1.2 mmol/L, Albumin:3.5 g/dL, LDH:224 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   This is a 66 y/o man with PMH notable for type 2 DM, AVR X 2, and TBM
   s/p tracheal stent who presents status post PEA arrest.
   .
   # Respiratory failure:  Resolved. Again unclear precipitant though
   patient has multiple pulmonary issues including sleep apnea (likely
   obesity hypoventilation syndrome), tracheobronchomalacia with recent
   tracheal stenting, and recurrent pneumonias (antibiotics almost
   continuously per wife due to sputum production). He also apparently
   takes multiple narcotics and other meds (i.e., flexeril, seroquel,
   valium) which could contribute to altered mental status which would
   exacerbate hypoventilation.
   - extubated on [**12-23**], sating well on 4L
   - obtained records from [**Location (un) 755**] regarding tracheal stenting
   -Coag + SA
 cover with Vanc, awaiting sensitivities
   - [**12-23**] sputum with multiple bacteria on GS. Concerning given treatment
   with cefepime. However prelim growth of only OP flora, likely just
   colonizer. Therefore have not changed abx. If spikes or clinically
   worsens add meropenem for possible ESBL or pseudomonas. Sputum
   decreasing
   - urine legionella antigen
 negative
   -continue to diurese to improve resp status. Goal negative 1.5 L daily
   .
   # Renal insufficiency: Resolved. baseline creatinine 0.9 to 1.1 per
   [**Hospital3 3928**]. Likely that creatinine will be higher in setting of
   shock and arrest, already improving with IVF and resuscitation. Now
   returned to [**Location 810**] range
   - trend creatinine
   - avoided nephrotoxins
   .
   # Cardiac status: Unclear circumstances surrounding the arrest. From
   family history, patient will fall asleep frequently during the day.
   This could be secondary to chronic hypercarbia which could be
   exacerbated by patient's multiple narcotic pain medications. Could
   hypothesize that patient took additional narcotics which depressed his
   already-tenuous respiratory drive leading to hypercarbia and hypoxia
   which led to PEA arrest. Other possibility is cardiac event but ekg on
   admit, not concerning for MI. Other etiologies (electrolyte
   abnormalities, PE, hypothermia) less likely given lab and scan results.
   Unclear what type of neurologic deficits, if any, he will have
   following this event. We elected not to cool him per protocol with
   arctic sun due to length of time since arrest (~ 1315 and 1815 on
   arrival to MICU) in addition to instability of blood pressures (on 3
   pressors on arrival to MICU).
   - off pressors
   - had continuous firing of pacer
 EP re-evaled [**12-23**] shortened a
   sensing interval
   -repeat echo, EF greater than 55 %, high transaoritc valve pressure
   gradiant. Largely unchanged since echo on presentation
   - brief period of A flutter on tele resolved spontaneously.
   .
   # mental status: question of anoxic injury after down so long in field.
   Pt improving but remains slow to respond
   -trend MS, today seems more oriented responding quicker, seems improved
   .
   # Diabetes mellitus: FSBS in 300s on arrival to the ICU. Was on
   insulin gtt and monitor blood sugars q1h until under better control.
 advanced Lantus to 20 [**Hospital1 7**], will start on home regimen when back to
   eating will follow FSBGs
   .
   # Hypertension:Held antihypertensives on arrival w given pressor
   requirement. Now stabilized, restarting home reg
   - Metoprolol, ACE back at home dose. d/ced Hydral
   -continue lasix diuresis 40 IV this am
   .
   # Hypercholesterolemia: Restarted statin
   .
   # Chronic pain: Will continually reassess. D/c
d sedation and will wait
   for mental status to improve prior to giving any narcotics or benzos,
   etc. Not complaining of significant pain.
   ..
   # CK elevation: Unlikely cardiac source given low MB and MBI. Troponin
   slightly elevated but in setting of renal insufficiency and stress from
   hypotension.  Resolved
   -continuing to downtrend
   .
   # FEN: advance diet to soft. replete lytes prn
   .
   # PPx: ppi, bowel meds, pneumoboots for now
   .
   # ACcess: removed Right IJ CVL,  remove Right radial arterial line .
   PICC in place,
   .
   # CODE: full, discussed with family
   .
   # COMM: with patient and family. Son [**Name (NI) **] [**Name (NI) 4273**] is HCP ([**Telephone/Fax (1) 4276**], Wife [**Telephone/Fax (1) 4277**].
   .
   # DISP: to floor today. Begin rehab screen
 HYPERTENSION, BENIGN
 DIABETES MELLITUS (DM), TYPE II
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CARDIAC ARREST
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2177-12-19**] 07:45 PM
   Arterial Line - [**2177-12-20**] 01:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Critical Care
   Present for the key portions of history and physical exam. Agree with
   Dr. [**Last Name (STitle) 4023**]
s assessment and plan as above. Mr. [**Known lastname 4273**]
s mental status
   is improving.  Echo shows good LV fxn. We are continuing to diurese as
   he has substantial fluid overload.  Will be able to go to Rehab in near
   future
 continuing to treat for pneumonia.
   Time spent 35 min
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 56**] [**Last Name (NamePattern1) 37**], MD
   on:[**2177-12-25**] 17:54 ------